US06747025B1
Preparation of 3-(5-Dimethylamino-3H-isobenzofuran-1-ylidene)-1-piperidin-1-ylmethyl-1,3-dihydro-indol-2-one
A mixture of 3-(5-Dimethylamino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (550 mg, 1.88 mmol), paraformaldehyde (141 mg, 4.7 mmol) and piperidine (240 mg, 2.82 mmol) in 20 mL of EtOH was stirred at reflux for overnight and cooled to room temperature. The solid which formed on cooling was collected by filtration, washed with EtOH (5 mL) and dried under vacuum to give the title compound (655 mg, 89%) as bright yellow crystals.

reactant | 3-(5-Dimethylamino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 1.88 mmol, 550 mg | CN(C=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O)C | C18H16N2O2
reactant | paraformaldehyde | 4.7 mmol, 141 mg | C=O | CH2O
reactant | piperidine | 2.82 mmol, 240 mg | N1CCCCC1 | C5H11N
solvent | EtOH | 20 mL | CCO | C2H6O
product | 3-(5-Dimethylamino-3H-isobenzofuran-1-ylidene)-1-piperidin-1-ylmethyl-1,3-dihydro-indol-2-one | 655 mg, 89% | CN(C=1C=C2COC(C2=CC1)=C1C(N(C2=CC=CC=C12)CN1CCCCC1)=O)C | C24H27N3O2
